US07446199B2
A suspension 1-(5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-(2,3-difluoro-phenyl)-ethanone (1.053 g, 3 mmol) and bis(pinacolato)diboron (840 mg, 3.3 mmol), PdCl2(PPh3)2 (62 mg, 0.15 mmol) and KOAc (882 mg, 9.0 mmol) in 1,4-dioxane (18 ml) was heated at 80° C. under Argon for 3 hours, and then concentrated. The residue was suspended in water and filtration gave 1.15 g of 2-(2,3-Difluoro-phenyl)-1-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-ethanone in 96% yield. LC-MS: m/e=399.3 (M+H), 397.3 (M−H).

reactant | 1-(5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-(2,3-difluoro-phenyl)-ethanone | 3 mmol, 1.053 g | BrC=1C=C2C(=NC1)NC=C2C(CC2=C(C(=CC=C2)F)F)=O | C15H9BrF2N2O
reactant | bis(pinacolato)diboron | 3.3 mmol, 840 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 9.0 mmol, 882 mg | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 18 ml | O1CCOCC1 | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.15 mmol, 62 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(2,3-Difluoro-phenyl)-1-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-ethanone | 1.15 g, 96% yield | FC1=C(C=CC=C1F)CC(=O)C1=CNC2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C | C21H21BF2N2O3
